US08461134B2
The crude intermediate (Z)-2-((2-oxodihydrofuran-3(2H)-ylidene)methyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (2.85 g, 10 mmol) and 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol (1.5 g, 10 mmol) was suspended in CAN (50 ml), followed by the addition of pyridine (3 ml) dropwise. After stirred at rt for 3 hrs, the mixture was poured into ice-H2O and extracted with EtOAc, washed with H2O, brine, dried over MgSO4, filtered, concentrated in reduced pressure to dryness. The crude product was treated with DCM to give (Z)-2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-((2-oxodihydrofuran-3(2H)-ylidene)methyl)phenyl)acetamide as a solid (3.4 g). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 11.63 (s, 1H), 10.34 (s, 1H), 9.18 (s, 1H), 8.00 (d, J=8.4 Hz, 1H), 7.87 (s, 1H), 7.87 (dd, J=8.4, 1.6 Hz, 1H), 7.82 (t, J=2.8 Hz, 1H), 7.34 (d, J=1.6 Hz, 1H), 7.21 (d, J=8.4 Hz, 1H), 7.07 (dd, J=8.4, 1.6 Hz, 1H), 4.85 (s, 2H), 4.28 (t, J=7.2 Hz, 2H), 2.88 (dt, J=2.8, 7.2 Hz, 2H). MS (ESI) m/z=495 (M−1).

reactant | (Z)-2-((2-oxodihydrofuran-3(2H)-ylidene)methyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 10 mmol, 2.85 g | O=C\1OCC/C1=C/C1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl | C13H9ClF3NO5S
reactant | 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol | 10 mmol, 1.5 g | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | CAN | 50 ml | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | (Z)-2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-((2-oxodihydrofuran-3(2H)-ylidene)methyl)phenyl)acetamide | 3.4 g | FC(C(=O)NC1=CC(=C(C=C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)\C=C\1/C(OCC1)=O)(F)F | C20H16BF3N2O7S
